US07452892B2
A. Preparation of 5-phenylpyrimidine-4,6-diol
Sodium metal (0.92 g, 40 mmol) was dissolved by stirring in ethanol (30 mL) at room temperature under argon over 40 min. To the resulting solution at room temperature was added 2-phenylmalonamide (3.56 g, 20 mmol) and ethyl formate (1.9 mL, 24 mmol). The resulting suspension was heated at 50° C. under argon 16 h. After cooling the reaction mixture to room temperature, water (100 mL) was added and the mixture was stirred for 1 h. Solid was removed by filtration. The filtrate was acidified to pH˜4 with 1 M aqueous HCl. The resulting precipitate was collected by filtration and further washed with water (20 mL×2), then Et2O (10 mL×2). After drying under vacuum for 3 h, the title compound (2.6 g) was obtained as a light yellow solid. HPLC/MS: retention time=0.76 min, [M+H]+=189.

reactant | Sodium | 40 mmol, 0.92 g | [Na] | Na
reactant | 2-phenylmalonamide | 20 mmol, 3.56 g | C1(=CC=CC=C1)C(C(=O)N)C(=O)N | C9H10N2O2
reactant | ethyl formate | 24 mmol, 1.9 mL | C(=O)OCC | C3H6O2
reactant | water | 100 mL | O | H2O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 5-phenylpyrimidine-4,6-diol | 2.6 g | C1(=CC=CC=C1)C=1C(=NC=NC1O)O | C10H8N2O2
